US07700594B2
trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)-N-ethylcyclohexanecarboxamide
Ethylamine hydrochloride (30 mg, 0.37 mmol), 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (35 mg, 0.11 mmol), and N,N-diisopropylethylamine (80 μL, 0.53 mmol) were added to a solution of trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylic acid (25 mg, 0.07 mmol) in anhydrous DMF (2 mL). Upon completion of reaction (as monitored by LCMS), the mixture was added to a saturated aqueous sodium bicarbonate solution (10 mL). The resulting precipitate was collected by filtration and washed with cold acetonitrile (3×10 mL) to afford 13 mg of the desired product. 1H NMR (d6-DMSO, 400 MHz): δ 11.41 (br s, 1H), 7.75 (dd, J=4.0, 4.0 Hz, 1H), 7.69 (d, J=4.0 Hz, 1H), 7.58 (d, J=8.0, 4.0 Hz, 1H), 7.45 (d, J=4.0, 4.0 Hz, 1H), 7.12 (dd, J=8.0, 8.0 Hz, 1H), 7.08-7.00 (m, 2H), 6.63 (m, 1H), 6.43 (br s, 2H), 3.16 (m, 1H), 3.07 (m, 2H), 2.18 (m, 1H), 2.02 (m, 2H), 1.84 (m, 2H), 1.66 (m, 4H) and 1.02 (t, J=4.0 Hz, 3H). MS (ES+): m/z 403.09 [MH+].

reactant | Ethylamine hydrochloride | 0.37 mmol, 30 mg | Cl.C(C)N
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.11 mmol, 35 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.53 mmol, 80 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylic acid | 0.07 mmol, 25 mg | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)O | C21H21N5O2
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)-N-ethylcyclohexanecarboxamide | 13 mg | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)NCC | C23H26N6O
